US04737452
To a mixture of 69 g of ethyl m-isothiocyanatobenzoate and 26 g of sodium azide was added 500 ml of water and the mixture was refluxed for 2 hours. After removing deposited insoluble matter by filtration, the filtrate was acidified by the addition of concentrated hydrochloric acid (pH about 2), and crystals of 1-(3-ethoxycarbonylphenyl)-5-mercaptotetrazole thus deposited were collected by filtration, mixed with 30 g of sodium hydroxide and 300 ml of water, and the mixture was stirred for 30 minutes at 70° C. The reaction mixture was neutralized by concentrated hydrochloric acid and crystals thus deposited were collected by filtration. The crude crystals were recrystallized from methanol to provide 32 g of 1-(3-carboxyphenyl)-5-mercaptotetrazole. The yield was 42% and the mleting point of the product was 181°-182° C.

reactant | ethyl m-isothiocyanatobenzoate | 69 g | N(=C=S)C=1C=C(C(=O)OCC)C=CC1 | C10H9NO2S
reactant | sodium azide | 26 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 500 ml | O | H2O
product | 1-(3-carboxyphenyl)-5-mercaptotetrazole | 32 g, yield was 42% | C(=O)(O)C=1C=C(C=CC1)N1N=NN=C1S | C8H6N4O2S
